US04062798
5.12 g. of 2-(4'-n-hexyl-4-biphenylyl)-pyrimidine-5-carboxylic acid ethyl ester are boiled under reflux for 3 hours with 150 ml. of ethanol and 6.1 g. of sodium hydroxide in 45 ml. of water and the reaction mixture is evaporated in vacuo. 50 ml. of water and 100 ml. of 20% strength hydrochloric acid are added to the residue. Filtering, washing with water and drying gives 2-(4'-n-hexyl-4-biphenylyl)-pyrimidine-5-carboxylic acid, which can be converted into the acid chloride by boiling for 2 hours with 30 ml. of thionyl chloride. The excess reagent is removed in vacuo and the residual acid chloride is suspended in 60 ml. of absolute dioxane and added to a solution of 80 ml. of dioxane saturated with ammonia at room temperature, with stirring. Ammonia is passed into the reaction mixture for 4 hours and the mixture is allowed to stand overnight at room temperature. After this, the mixture is evaporated to dryness and the residue is stirred for 30 minutes with 100 ml. of water, filtered, rinsed with water and dried. Colorless 2-(4'-n-hexyl-4-biphenylyl)-pyrimidine-5-carboxylic acid amide is thus obtained, which can be sublimed at 205° in a high vacuum for purification, m.p. >260°.

reactant | 2-(4'-n-hexyl-4-biphenylyl)-pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NC(=NC1)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC | C25H28N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(4'-n-hexyl-4-biphenylyl)-pyrimidine-5-carboxylic acid | C(CCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)O | C23H24N2O2
